US06107342
A solution of (1S,2R,3R,5R,6S)-3-allyloxy-2-amino-bicyclo [3.1.0]hexane-2,6-dicarboxylic acid 2-benzyl ester 6-ethyl ester (XXIV-2) (47 mg, 0.131 mmol) and LiOH.H2O (15 mg, 0.357 mmol) in THF (4 mL), H2O (2 mL) and MeOH (0.4 mL) was stirred at 23° C. for 36 h. The solution was acidified with conc. HCl and evaporated to dryness. The remaining pale yellow solid was suspended in EtOH, filtered, washed with more EtOH and the filtrate was evaporated to dryness. The residue was dissolved in EtOH (1 mL) and propylene oxide (1 mL) and refluxed for 3 min, whereupon the amino acid precipiated. After cooling to 23° C., the product was filtered off, washed with ether and dried to give (1S,2R,3R,5R,6S)-3-allyloxy-2-amino-bicyclo[3.1.0]hexane-2,6-dicarboxylic acid (I-9) (19 mg, 59%) as a white solid. 1H-NMR (250 MHz, D2O) □1.48 (1H, t, J=3.5 Hz), 1.78 (2H, m), 1.98 (1H, ddd, J=12.5, 8,3.5 Hz), 2.27 (1H, dd, J=12.5, 7 Hz), 3.44 (1H, bt, J=7.5 Hz), 3.97 (2H, m), 5.13-5.26 (2H, m), 5.82 (1H, ddt, J=18, 11, 6 Hz); MS[ISN] 240 [(M-H)- ]; mp>250° C.; ΞD20 -10.62° (c=0.40, H2O).

reactant | (1S,2R,3R,5R,6S)-3-allyloxy-2-amino-bicyclo [3.1.0]hexane-2,6-dicarboxylic acid 2-benzyl ester 6-ethyl ester | 0.131 mmol, 47 mg | C(C)OC(=O)[C@H]1[C@@H]2C[C@H]([C@]([C@H]12)(C(=O)OCC1=CC=CC=C1)N)OCC=C | C20H25NO5
reactant | LiOH.H2O | 0.357 mmol, 15 mg | O[Li].O
reactant | HCl | Cl | ClH
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | H2O | 2 mL | O | H2O
solvent | MeOH | 0.4 mL | CO | CH4O
product | (1S,2R,3R,5R,6S)-3-allyloxy-2-amino-bicyclo[3.1.0]hexane-2,6-dicarboxylic acid | C(C=C)O[C@H]1[C@]([C@@H]2[C@H]([C@@H]2C1)C(=O)O)(C(=O)O)N | C11H15NO5
